US08487108B2
(S)-tert-butyl 4-((R)-5-tert-butoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate (300 mg, 0.55 mmol) was dissolved in 30% MeNH2 in EtOH (60 mL), the solution was heated to 70° C. for 2 h in a pressure sealed vessel. After cooling to rt, the solvent was removed under reduced pressure to give (S)-tert-butyl 4-((R)-5-tert-butoxy-2-((methylamino)methyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate (212 mg, 95%). MS ESI +ve m/z 401 (M+H).

reactant | (S)-tert-butyl 4-((R)-5-tert-butoxy-5-oxo-2-(tosyloxymethyl)pentyl)-2,2-dimethyloxazolidine-3-carboxylate | 0.55 mmol, 300 mg | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)COS(=O)(=O)C1=CC=C(C)C=C1)=O | C27H43NO8S
reactant | MeNH2 | CN | CH5N
solvent | EtOH | 60 mL | CCO | C2H6O
product | (S)-tert-butyl 4-((R)-5-tert-butoxy-2-((methylamino)methyl)-5-oxopentyl)-2,2-dimethyloxazolidine-3-carboxylate | 212 mg, 95% | C(C)(C)(C)OC(CC[C@H](C[C@@H]1N(C(OC1)(C)C)C(=O)OC(C)(C)C)CNC)=O | C21H40N2O5
